US04929613
7-[(3-Oximino)cyclopentyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid.
A solution of 3.8 g (55 mol) of hydroxylamine hydrochloride in 100 ml of water was neutralized by the addition of 55 ml (55 mmol) of 1.0 N sodium hydroxide. To this was added a suspension of 16.5 g (50 mmol) of 7-(3-oxocyclopentyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline acid in a mixture of 150 ml of ethanol and 50 ml (50 mmol) of 1.0 N sodium hydroxide. The reaction mixture was heated at 60° for 4 hours and then at room temperature overnight. The alcohol was removed in vacuo and the aqueous was acidified to pH 2.0 with 6.0 M hydrochloric acid. The solid was removed by filtration, washed with water, and dried in vacuo to give 16.1 g of the title compound.

reactant | hydroxylamine hydrochloride | 55 mol, 3.8 g | Cl.NO
reactant | sodium hydroxide | 55 mmol, 1.0 N, 55 ml | [OH-].[Na+]
reactant | 7-(3-oxocyclopentyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline | 50 mmol, 16.5 g | O=C1CC(CC1)C1=C(C=C2C(C=CN(C2=C1)C1CC1)=O)F | C17H16FNO2
reactant | sodium hydroxide | 50 mmol, 1.0 N, 50 ml | [OH-].[Na+]
reactant | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 7-[(3-Oximino)cyclopentyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 16.1 g | N(O)=C1CC(CC1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C18H17FN2O4
